US04555406
2.84 g of N-[6-(2,4-difluorophenoxy)-1-hydroxy-5-indanyl]methanesulfonamide and 1.83 g of phosphorus pentachloride are stirred in 50 ml of dichloromethane-diethyl ether (1:1) for 45 minutes at 0° C. At 0° C., a solution of 7 g of dimethylamine in 25 ml of dichloromethane is added to the reaction mixture. After 2 hours at 20° C. and 20 minutes of boiling, the mixture is concentrated and the residue is recrystallized from aqueous hydrochloric acid, yielding 2.41 g of N-[6-(2,4-difluorophenoxy)-1-dimethylamino-5-indanyl]methanesulfonamide, hydrochloride, mp 195° C.

reactant | N-[6-(2,4-difluorophenoxy)-1-hydroxy-5-indanyl]methanesulfonamide | 2.84 g | FC1=C(OC2=C(C=C3CCC(C3=C2)O)NS(=O)(=O)C)C=CC(=C1)F | C16H15F2NO4S
reactant | phosphorus pentachloride | 1.83 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | dimethylamine | 7 g | CNC | C2H7N
solvent | dichloromethane diethyl ether | 50 ml | ClCCl.C(C)OCC
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | N-[6-(2,4-difluorophenoxy)-1-dimethylamino-5-indanyl]methanesulfonamide, hydrochloride | 2.41 g | Cl.FC1=C(OC2=C(C=C3CCC(C3=C2)N(C)C)NS(=O)(=O)C)C=CC(=C1)F | InChI=1S/C18H20F2N2O3S.ClH/c1-22(2)16-6-4-11-8-15(21-26(3,23)24)18(10-13(11)16)25-17-7-5-12(19)9-14(17)20;/h5,7-10,16,21H,4,6H2,1-3H3;1H
